US08957073B2
To 4-{3-[1-(1H-Benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (217 mg, 0.47 mmol) was added 4 M HCl in MeOH (100 mL). The solution was stirred at RT for 2 h. The solvent was removed under reduced pressure to give (1H-benzoimidazol-2-yl)-{3-[3-(1,2,3,6-tetrahydro-pyridin-4-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone hydrochloride (187 mg, 0.47 mmol, yield 100%). ESI-MS (M+1): 361 calc. for C20H20N6O 360.

reactant | 4-{3-[1-(1H-Benzoimidazole-2-carbonyl)-azetidin-3-yl]-pyrazin-2-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.47 mmol, 217 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC=CN=C1C1CN(C1)C(=O)C1=NC2=C(N1)C=CC=C2 | C25H28N6O3
reactant | HCl | 4 M | Cl | ClH
solvent | MeOH | 100 mL | CO | CH4O
product | (1H-benzoimidazol-2-yl)-{3-[3-(1,2,3,6-tetrahydro-pyridin-4-yl)-pyrazin-2-yl]-azetidin-1-yl}-methanone hydrochloride | 0.47 mmol, 187 mg, yield 100% | Cl.N1C(=NC2=C1C=CC=C2)C(=O)N2CC(C2)C2=NC=CN=C2C=2CCNCC2 | InChI=1S/C20H20N6O.ClH/c27-20(19-24-15-3-1-2-4-16(15)25-19)26-11-14(12-26)18-17(22-9-10-23-18)13-5-7-21-8-6-13;/h1-5,9-10,14,21H,6-8,11-12H2,(H,24,25);1H
